US07435815B2
[(6-Methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid
prepared by reaction of 3-methyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide with methyl bromoacetate

reactant | 3-methyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide | COC1=CC=C(C=N1)NS(=O)(=O)C1=NC=CC=C1C | C12H13N3O3S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [(6-Methoxy-pyridin-3-yl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C14H15N3O5S
